US03951978
15 g. of 1-p-fluorobenzoyl-1-bromo-3-chloropropane, 9.4 g. of morpholine and a catalytic quantity of potassium iodide in 100 cc anhydrous benzene are stirred at room temperature for 36 hrs. The resulting solid is filtered and the filtrate extracted with dilute HCl. The aqueous phase is separated, made alkaline, under cold conditions, with dilute soda solution, and extracted with diethyl ether. The extract is dried and evaporated to give 1-p-fluorobenzoyl-1-morpholino-3-chloropropane.

reactant | 1-p-fluorobenzoyl-1-bromo-3-chloropropane | FC1=CC=C(C(=O)C(CCCl)Br)C=C1 | C10H9BrClFO
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | potassium iodide | [I-].[K+]
solvent | benzene | 100 cc | C1=CC=CC=C1 | C6H6
product | 1-p-fluorobenzoyl-1-morpholino-3-chloropropane | FC1=CC=C(C(=O)C(CCCl)N2CCOCC2)C=C1 | C14H17ClFNO2
